2106-03-02 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2106-3-1**] 04:38 PM
 EKG - At [**2106-3-1**] 06:10 PM
 showed resolution of ST depressions
   and TWI in precordial leads. New TWI in inferior leads.
 ARTERIAL LINE - START [**2106-3-2**] 12:39 AM
   -Changed vent settings to decrease Tv to 450cc, decreased peak pressure
   from 30s to 20s
   -NE drip stopped at 1am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-3-1**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to assess, patient is non responsive
   Flowsheet Data as of  [**2106-3-2**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 32.6
C (90.7
   Tcurrent: 32.6
C (90.7
   HR: 54 (47 - 67) bpm
   BP: 96/53(69) {96/53(69) - 144/74(191)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 10 (4 - 13)mmHg
   Total In:
                                                                  3,918 mL
                                                                    428 mL
   PO:
   TF:
   IVF:
                                                                  2,218 mL
                                                                    428 mL
   Blood products:
   Total out:
                                                                    177 mL
                                                                    103 mL
   Urine:
                                                                    127 mL
                                                                    103 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,741 mL
                                                                    325 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 34
   PIP: 27 cmH2O
   Plateau: 28 cmH2O
   Compliance: 19.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/37/146/22/-5
   Ve: 8 L/min
   PaO2 / FiO2: 292
   Physical Examination
   Gen: Intubated, overbreathing vent setting with Tv 700-800, f 16-18,
   arctic sun cooling device in place, lying unresponsive.
   Neuro: Does not respond to voice. Does not withdraw to painful stimuli.
   R pupil unresponsive, L pupil 3->2.5mm sluggish response to light
   without apparent consensual R pupil reflex. No vestibuloocular reflex.
   Unable to access remaining cranial nerves. Limbs are atonic. Reflexes
   absent throughout, toes unresponsive on Babinski. Makes non purposeful
   movements including lip movement with grimacing, occasional eye
   opening, upper body clonic jerks, and occasional whole body clonic
   jerks.
   HEENT: Sclera noninjected, nonicteric. Nasogastric tube in place.
   Oropharynx  without lesions, moist membranes.
   Neck: Supple. R IJ in place, clean and dry.
   CV: PMI in the midclavicular line. Heart sounds are soft. Regular rate.
   Preserved S1 and S2. No murmurs. No gallop.
   Pulm: Limited exam. Clear anteriorly with good air movement
   bilaterally.
   Abd: +BS. Soft. No masses appreciated.
   Ext: Cool. Present radial pulses. No pedal pulses. Good capillary
   refill. No edema. No cyanosis.
   Labs / Radiology
   123 K/uL
   10.6 g/dL
   88 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.8 mEq/L
   42 mg/dL
   113 mEq/L
   144 mEq/L
   31.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2106-3-1**]  05:12 PM
                             [**2106-3-1**]  05:48 PM
                             [**2106-3-1**]  10:45 PM
                             [**2106-3-2**]  12:36 AM
                             [**2106-3-2**]  01:58 AM
                             [**2106-3-2**]  04:20 AM
                             [**2106-3-2**]  04:43 AM
   WBC
   12.0
   11.5
   Hct
   33.4
   35
   38
   31.7
   Plt
   137
   123
   Cr
   1.6
   1.5
   1.6
   TropT
   0.04
   TCO2
   17
   16
   21
   20
   Glucose
   [**Telephone/Fax (3) 4850**]97
   88
   Lactate
   3.5
   3.0
   3.0
   3.5
   Free Ca
   1.11
   1.22
   1.06
   INR
   1.3
   1.2
   Other labs: PT / PTT / INR:14.3/28.9/1.2, CK / CKMB /
   Troponin-T:174/10/0.04, ALT / AST:79/127, Alk Phos / T Bili:59/0.4,
   Lactic Acid:3.5 mmol/L, Albumin:3.2 g/dL, LDH:361 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
    [**Age over 90 **]yo M with chronic subdural hematoma, Parkinsons, and [**Hospital1 69**] dependant
   at baseline presenting after cardiac arrest, now on hypothermia
   protocol.
   .
   #) Arrest: Both the cause of arrest and the heart rhythm during arrest
   remain uncertain. Details are from EMS records and are limited. Per
   report it is suspicious for asphyxiation leading to cardiopulmonary
   arrest with asystole given that he was found to have food at the vocal
   cords and he had an "non shockable" rhythm. His history does not
   support other common causes of PEA/asystole, and his lab abnormalities
   are likely a result and not cause of arrest. We cannot rule out a
   ventricular arrythmia, but again his findings of cardiac infarction are
   more likely the result and not cause of arrest. Regardless of cause, he
   received excellent life support care with rapid CPR and relatively fast
   return of spontaneous circulation. He has been started on the arctic
   sun cooling protocol and we will continue provided he tolerates it.
   - Continue Arctic Sun protocol. Reached goal 34C at 15:30 [**3-1**].
   - Bolus NS to increase MAP and given elevated lactate
   - Continue norepinephrine drip to maintain MAP>65, wean as tolerated
   - Monitor ABG, coags, electrolytes q4-6 hours
   - Replete K and Mg as needed
   - Will remain intubated on AC
   - Monitoring on telemetry for any arrythmias
   -Consider ECHO to assess cardiac status
   - Plan to rewarm tomorrow after 18-24 hours (9:30-15:30)
   .
   #) Anion Gap: Patient has an anion gap with an elevated lactate, both
   of which are improving with IV fluids and improved hemodynamic status.
   This is secondary to cardiac arrest and resultant poor perfusion.
   - Continue agressive IVF boluses
   - Monitor lytes and lactate
   .
   #) Bifrontal subdural fluid collections - Patient with known chronic
   subdural hematomas. CT concerning for possible new acute progression in
   left frontal area. Seen by neurosurgery. No need for acute
   intervention.
   - Appreciate neurosurgery input
   - Plan to reimage in 24 hours
   .
   #) Neurologic impairment - Patient's neurologic exam is concerning for
   significant impairment secondary to cardiopulmonary arrest leading to
   anoxic brain injury/encephalitis. He is being sedated but there is no
   report of administration of paralytic agents to explain his whole body
   loss of tone and areflexia. This is concerning regarding his prognosis
   for return of neurolgic function. We will continue hypothermia as
   above, maintain MAP for cerebral perfusion, and follow clinically. If
   concern increases for worsening neurologic function/ increased ICP will
   consider mannitor and hypoventilation. Plan for repeat imaging as
   above.
   .
   #) Respiratory Failure: There is no evidence on exam or CXR of
   respiratory failure or significant gas exchange abnormality and no
   evidence of further aspiration. Maintain on mandatory ventilation while
   cooling. Wean O2 as tolerated. His peak airway pressures have been in
   the 30s. This may be due to some obstructive airway disease at
   baseline/ elevated lung volumes.
   -Home inhalers
   -Decrease tidal volume
   -Repeat CXR tomorrow given concern for aspiration
   .
   #) Acute Kidney Injury - Patient has an elevated creatinine likely due
   to prerenal azotemia. This could be strictly prerenal or may have
   progressed to ATN. It is reassuring that his creatinine is now trending
   down. Rhabdomyolsis is unlikely given the normal CK.
   - Continue IVFs and trend creatinine as above, with goal UO>30cc/hr
   - Further workup with UA and sediment if worsening renal status
   .
   #) Elevated LFTs - Patient has an elevated AST, with normal Alk phos
   and bilirubin. AST is non specific and could indicate cardiac
   infarction. If there is liver injury, this is likely shock liver due to
   hypoperfusion during cardiac arrest. We will continue to follow labs.
   .
   #) Coagulopathy - Patient has elevated coags with a normal fibrinogen.
   His coagulopathy is unlikely to be DIC given his normal fibrinogen.
   There is no obvious cause however it may be due to cardiopulmonary
   arrest leading to some thrombus formation with lysis on return of
   circulation. It is improving on repeat labs. Will continue to follow
   closely.
   .
   #) ST depressions - EKG shows precordial ST depressions and Troponin is
   elevated. This is likely secondary to arrest and CPR leading to cardiac
   myocyte damage. ACS is unlikely by history.
   -Repeat EKG
   -Trend cardiac enzymes
   .
   #) Hyperphosphatemia - Patients elevated phosphate is likely due to
   lactic acidosis leading to a shift of intracellular phosphate. This may
   be worsened by acute renal failure and inability to excrete excess
   phosphate. Rhabomyolysis is unlikey given the normal CK. It is now
   trending down with improvement of his lactic acidosis. Will continue to
   follow.
   .
   #) Hypocalcemia - Patients hypocalcemia may be secondary to
   hyperphosphatemia and resultant deposition of calcium and phosphate
   into bone. His calcium X phosphate product was initially ~60 concerning
   for risk of precipitation, however on repeat the product is decreased
   to within normal limtis. Alternatively may be secondary to shock and
   impaired PTH secretion/action. Given the acuity of the drop, IV calcium
   repletion is warranted.
   -IV calcium gluconate with goal Ionized Ca 1-1.1
   .
   #) ? Seizure activity
 per EMS report the patient may have had
   tonic-clonic movements on presentation concerning for a seizure. He is
   now atonic. Does not appear to be actively seizing, but will consider
   non-convulsive status if clinical picture/rising CK suggests this. No
   known history as noted above.
   -Trend CK
   -Consider EEG tomorrow if clinical concern
   .
   #) FEN:
   - NPO
   - Fluids and electrolyte replacement as above
   .
   Contact: Granddaughter/HCP - [**Name (NI) 203**] [**Name (NI) 980**] [**Telephone/Fax (1) 4840**] (cell),
   [**Telephone/Fax (1) 4841**] (work)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   20 Gauge - [**2106-3-1**] 04:40 PM
   18 Gauge - [**2106-3-1**] 04:42 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2106-03-02 09:15:00 Physician Attending Progress Note
Chief Complaint: Cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]M found to have cardiac arrest after a question of seizure activity
   and food aspiration.  Induced hypothermia.
   24 Hour Events:
 MULTI LUMEN - START [**2106-3-1**] 04:38 PM
 EKG - At [**2106-3-1**] 06:10 PM
 ARTERIAL LINE - START [**2106-3-2**] 12:39 AM
   Levophed weaned off, since 1am.
   Vt decreased to 450.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-3-1**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Integumentary (skin): No(t) Rash
   Heme / Lymph: Anemia
   Neurologic: Seizure, possible
   Pain: Unable to answer
   Flowsheet Data as of  [**2106-3-2**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 32.6
C (90.7
   Tcurrent: 32.6
C (90.7
   HR: 59 (47 - 67) bpm
   BP: 105/56(74) {96/53(69) - 144/74(191)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   CVP: 14 (4 - 14)mmHg
   Total In:
                                                                  3,918 mL
                                                                    829 mL
   PO:
   TF:
   IVF:
                                                                  2,218 mL
                                                                    829 mL
   Blood products:
   Total out:
                                                                    177 mL
                                                                    128 mL
   Urine:
                                                                    127 mL
                                                                    128 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,741 mL
                                                                    701 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 34
   PIP: 13 cmH2O
   Plateau: 28 cmH2O
   Compliance: 19.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.27/42/136/19/-7
   Ve: 8.6 L/min
   PaO2 / FiO2: 272
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Non -purposeful,
   Sedated, Tone: Not assessed, myoclonic jerks
   Labs / Radiology
   10.5 g/dL
   122 K/uL
   88 mg/dL
   1.5 mg/dL
   19 mEq/L
   4.0 mEq/L
   42 mg/dL
   113 mEq/L
   143 mEq/L
   30.8 %
   13.1 K/uL
        [image002.jpg]
                             [**2106-3-1**]  05:12 PM
                             [**2106-3-1**]  05:48 PM
                             [**2106-3-1**]  10:45 PM
                             [**2106-3-2**]  12:36 AM
                             [**2106-3-2**]  01:58 AM
                             [**2106-3-2**]  04:20 AM
                             [**2106-3-2**]  04:43 AM
                             [**2106-3-2**]  07:53 AM
                             [**2106-3-2**]  08:07 AM
   WBC
   12.0
   11.5
   13.1
   Hct
   33.4
   35
   38
   31.7
   30.8
   Plt
   137
   123
   122
   Cr
   1.6
   1.5
   1.6
   1.5
   TropT
   0.04
   TCO2
   17
   16
   21
   20
   20
   Glucose
   [**Telephone/Fax (3) 4850**]97
   88
   88
   Other labs: PT / PTT / INR:14.3/28.9/1.2, CK / CKMB /
   Troponin-T:217/10/0.04, ALT / AST:79/127, Alk Phos / T Bili:59/0.4,
   Lactic Acid:4.8 mmol/L, Albumin:3.2 g/dL, LDH:361 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: mild vascular congestion, LLL atelectasis/infiltrate
   Microbiology: no new data
   Assessment and Plan
 CARDIAC ARREST:
   --Induced hypothermia:  Begin warming after 24 hours.
   --Continue monitoring serial labs
   --Echo today
   >Altered mental status:
   Possible nonconvulsive seizure vs secondary to arrest and anoxic
   injury.
   Check EEG.
   Once rewarming, awaken and assess neuro exam.
   >Respiratory Failure:
   Oxygenation has been stable.  Wean FiO2 and try PSV.
   No evidence of pneumonia clinically, so hold off on antibiotics.
   >Acute Renal Failure:
   Baseline renal function unknown.
   Creatinine has plateaud and remains oliguric.
   Likely ATN from arrest--continue to monitor, if increasing signs of
   volume overload, consider lasix.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   20 Gauge - [**2106-3-1**] 04:40 PM
   18 Gauge - [**2106-3-1**] 04:42 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes, patient is critically ill

2106-03-03 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   [**Age over 90 **]yo M with chronic subdural hematoma, Parkinsons, and [**Hospital1 69**] dependant at
   baseline presenting after cardiac arrest, now on hypothermia protocol.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2106-3-2**] 01:35 PM:
   dilated, borderline hypocontractile right ventricle; small,
   hyperdynamic left ventricle. EF 70-80%.
 EEG - At [**2106-3-2**] 02:35 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-3-2**] 08:12 PM
   Midazolam (Versed) - [**2106-3-3**] 12:44 AM
   Flowsheet Data as of  [**2106-3-3**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 67 (59 - 73) bpm
   BP: 106/45(60) {97/45(60) - 121/67(87)} mmHg
   RR: 15 (8 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 14 (8 - 15)mmHg
   Total In:
                                                                  2,138 mL
                                                                    616 mL
   PO:
   TF:
   IVF:
                                                                  2,038 mL
                                                                    616 mL
   Blood products:
   Total out:
                                                                    399 mL
                                                                    229 mL
   Urine:
                                                                    399 mL
                                                                    229 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,739 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 476 (476 - 856) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.34/40/168/19/-3
   Ve: 5 L/min
   PaO2 / FiO2: 420
   Physical Examination
   Gen: Intubated, overbreathing vent setting with Tv 700-800, f 16-18,
   arctic sun cooling device in place, lying unresponsive.
   HEENT: Sclera noninjected, nonicteric. Nasogastric tube in place.
   Oropharynx  without lesions, moist membranes.
   NECK: Supple. R IJ in place, clean and dry.
   CV: PMI in the midclavicular line. Heart sounds are soft. Regular rate.
   Preserved S1 and S2. No murmurs. No gallop.
   PULM: Limited exam. Clear anteriorly with good air movement
   bilaterally.
   ABD: +BS. Soft. No masses appreciated.
   EXT: Cool. Present radial pulses. No pedal pulses. Good capillary
   refill. No edema. No cyanosis.
   NEURO: Does not respond to voice. Does not withdraw to painful stimuli.
   R pupil unresponsive, L pupil 3->2.5mm sluggish response to light
   without apparent consensual R pupil reflex. No vestibuloocular reflex.
   Unable to access remaining cranial nerves. Limbs are atonic. Reflexes
   absent throughout, toes unresponsive on Babinski. Makes non purposeful
   movements including lip movement with grimacing, occasional eye
   opening, upper body clonic jerks, and occasional whole body clonic
   jerks.
   Labs / Radiology
   108 K/uL
   9.3 g/dL
   93 mg/dL
   1.7 mg/dL
   19 mEq/L
   3.8 mEq/L
   46 mg/dL
   112 mEq/L
   140 mEq/L
   27.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2106-3-2**]  04:43 AM
                             [**2106-3-2**]  07:53 AM
                             [**2106-3-2**]  08:07 AM
                             [**2106-3-2**]  12:08 PM
                             [**2106-3-2**]  12:18 PM
                             [**2106-3-2**]  02:28 PM
                             [**2106-3-2**]  04:19 PM
                             [**2106-3-2**]  07:50 PM
                             [**2106-3-2**]  08:43 PM
                             [**2106-3-3**]  05:14 AM
   WBC
   13.1
   12.8
   10.2
   Hct
   30.8
   29.9
   27.4
   Plt
   122
   114
   108
   Cr
   1.5
   1.5
   1.5
   1.6
   1.7
   TropT
   0.04
   TCO2
   20
   20
   21
   21
   23
   Glucose
   88
   93
   77
   85
   93
   Other labs: PT / PTT / INR:13.6/29.3/1.2, CK / CKMB /
   Troponin-T:217/10/0.04, ALT / AST:79/127, Alk Phos / T Bili:59/0.4,
   Lactic Acid:1.7 mmol/L, Albumin:3.2 g/dL, LDH:361 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   [**Age over 90 **]yo M with chronic subdural hematoma, Parkinsons, and [**Hospital1 69**] dependant at
   baseline presenting after cardiac arrest, now on hypothermia protocol.
   .
   #) Arrest: Patient is s/p cardiopulmonary arrest likely due to trachea
   obstruction. Tolerated cooling well, now rewarmed
   - IVF boluses to maintain MAP>65, and given low UO and lactate of 3.5
   - Monitor ABG, coags, electrolytes q4-6 hours
   - Avoid K repletion for 6 hours prior to rewarming.
   - Monitoring on telemetry for any arrythmias
   - ECHO results above.
   - Lactate continues to improve
   .
   #) Respiratory Failure: Patient presented with history concerning for
   aspiration. CXR now is concerning for a retrocardiac opacity as well as
   increase interstitial fluid. On pressure support [**4-20**], RSBI 40 without
   significant secretions.
   -Home inhalers
   -Follow CXR, WBC, temperature after warming to assess for aspiration
   pneumonitis
   -SBT will also eval brain function
   .
   #) Neurologic impairment
 Anoxic brain injury vs status epilepticus vs
   sedation vs increased ICP due to enlarging chronic SDH or new process
   especially in setting of worsening anemia.
   - repeat CT head today.
   - neurosurg: no need for acute intervention
   .
   #) Anemia
 Hct slowly trending down from 30s, initially was 9 but
   likely lab error. No evidence of active bleed.
   - CT head to eval IC bleeding
   - ? effects of cooling
   - blood T+C, active until [**3-4**]
   - no need for transfusion yet.
   .
   #) Acute Kidney Injury
 Initial Cr 1.9, thought to be prerenal based
   on FeNA and sediment. Improved to 1.5 and now 1.7. Baseline normal.
   Urine output adequate
   - IVF prn with D5 bicarb given hyperchloremic metabolic acidosis.
   .
   #) Elevated LFTs - Patient has an elevated AST, ALT, with normal Alk
   phos and bilirubin. AST is non specific and could indicate cardiac
   infarction. If there is liver injury, this is likely shock liver due to
   hypoperfusion during cardiac arrest. We will continue to follow labs.
   .
   #) Coagulopathy - Patient has elevated coags with a normal fibrinogen.
   This is likely due to cardiopulmonary arrest leading to some thrombus
   formation with lysis on return of circulation. There is no indication
   of DIC. Will continue to follow closely.
   .
   #) ST depressions - EKG initially showed precordial ST depressions and
   TWI, these have resolved and he now has inferior lead TWIs. ACS is
   unlikely by history.
   -Repeat EKG
   -Trend cardiac enzymes
   .
   #) Hypocalcemia
 Likely due to either initial hyperphosphatemia
   leading to deposition in bone. Alternatively may be secondary to shock
   and impaired PTH secretion/action.
   -IV calcium gluconate with goal Ionized Ca 1.1-1.2
   .
   #) ? Seizure activity
 per EMS report the patient may have had
   tonic-clonic movements on presentation concerning for a seizure. Also
   had some myoclonic jerks thought to be due to hypothermia.
   - sp EEG, unread
   ICU Care
   Nutrition: NPO
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   20 Gauge - [**2106-3-1**] 04:40 PM
   18 Gauge - [**2106-3-1**] 04:42 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: H2
   Communication:  Granddaughter/HCP - [**Name (NI) 203**] [**Name (NI) 980**] [**Telephone/Fax (1) 4840**] (cell),
   [**Telephone/Fax (1) 4841**] (work)
   Code status: Full code
   Disposition:
                         Active Medications [**Known lastname **],[**Known firstname **]
                1. Carbidopa-Levodopa (25-100) 1 TAB PO DAILY
   5. Insulin SC  SS
   2. Famotidine 20 mg IV Q24H
   6. Ipratropium Bromide MDI 2 PUFF IH QID PRN
   3. Fentanyl Citrate 25-100 mcg/hr IV DRIP
   7. Pramipexole *NF* 0.125 mg Oral TID
   4. Midazolam 0.5-2 mg/hr IV DRIP

2106-03-04 07:37:00 Physician Resident Progress Note
Chief Complaint:
   [**Age over 90 **]yo M with chronic subdural hematoma, Parkinsons, and [**Hospital1 69**] dependant at
   baseline presenting after cardiac arrest, now on hypothermia protocol.
   24 Hour Events:
 BLOOD CULTURED - At [**2106-3-4**] 12:08 AM
 FEVER - 102.6
F - [**2106-3-4**] 06:00 AM
   - Spiked, BC and UC sent (CXR had just been done after pulling RIJ out
   2cm, per rads the am mCXR suggested new LLL infiltrate and left pleural
   effusion). Tried to send sputum but no secretions.
   - Started Vanc and Zosyn for HAP
   - Did not get to talk to family re: code status
   - Plan to turn off propofol in am, see if pt wakes up
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-3-3**] 08:43 PM
   Vancomycin - [**2106-3-3**] 09:24 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-3-3**] 07:16 PM
   Other medications:
   Flowsheet Data as of  [**2106-3-4**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 39.2
C (102.6
   HR: 81 (66 - 82) bpm
   BP: 152/65(92) {98/47(65) - 160/90(99)} mmHg
   RR: 17 (9 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 14 (6 - 17)mmHg
   Total In:
                                                                  1,300 mL
                                                                    105 mL
   PO:
   TF:
   IVF:
                                                                  1,155 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                    784 mL
                                                                    560 mL
   Urine:
                                                                    784 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    516 mL
                                                                   -455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (402 - 642) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.41/37/113//0
   Ve: 7.7 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Gen: Intubated, unresponsive to pain or voice
   HEENT: Pupils unresponsive
   NECK: R IJ in place, clean and dry.
   CV: RRR, systolic murmur at left USB, split S2 on inspiration
   PULM: Clear anteriorly with good air movement bilaterally.
   ABD: +BS. Soft. No masses appreciated.
   EXT: Strong distal. Good capillary refill. No edema. No cyanosis.
   NEURO: down going toes, does not response.
   Labs / Radiology
   110 K/uL
   9.4 g/dL
   101 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   43 mg/dL
   112 mEq/L
   142 mEq/L
   27.2 %
   12.1 K/uL
        [image002.jpg]
                             [**2106-3-2**]  08:07 AM
                             [**2106-3-2**]  12:08 PM
                             [**2106-3-2**]  12:18 PM
                             [**2106-3-2**]  02:28 PM
                             [**2106-3-2**]  04:19 PM
                             [**2106-3-2**]  07:50 PM
                             [**2106-3-2**]  08:43 PM
                             [**2106-3-3**]  05:14 AM
                             [**2106-3-4**]  12:20 AM
                             [**2106-3-4**]  05:39 AM
   WBC
   12.8
   10.2
   12.1
   Hct
   29.9
   27.4
   27.2
   Plt
   114
   108
   110
   Cr
   1.5
   1.5
   1.6
   1.7
   TCO2
   20
   21
   21
   23
   24
   Glucose
   93
   77
   85
   93
   Other labs: PT / PTT / INR:13.6/29.3/1.2, CK / CKMB /
   Troponin-T:217/10/0.04, ALT / AST:79/127, Alk Phos / T Bili:59/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:361 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   EEG: This is a normal routine EEG in the waking state. There were no
   focal, lateralized, or epileptiform features noted. The overlying fast
   activity seen in background is normally due to medication effect
   commonly from benzodiazepines or barbiturates.
   CT head: Negligible interval change from prior study.
   Assessment and Plan
   [**Age over 90 **]yo M with chronic subdural hematoma, Parkinsons, and [**Hospital1 69**] dependant at
   baseline presenting after cardiac arrest, now on hypothermia protocol.
   .
   #) Arrest: Patient is s/p cardiopulmonary arrest likely due to trachea
   obstruction, other etiology unlikely. Tolerated cooling well, now
   rewarmed
   - IVF boluses to maintain MAP>65, and given low UO and lactate of 3.5
   - lytes normal
   - ECHO without WMA
   - Lactate continues to improve
   - initial EKG with ST depressions, quickly resolved. Trop 0.04 after
   CPR, CK flat
   .
   #) Respiratory Failure: Patient presented with history concerning for
   aspiration. CXR now is concerning for a retrocardiac opacity as well as
   increase interstitial fluid. On pressure support [**4-20**], RSBI 40 without
   significant secretions.
   -Home inhalers
   -Follow CXR, WBC, temperature after warming to assess for aspiration
   pneumonitis
   - extubate after results of EEG and head CT and family discussion re:
   reintubation
   .
   #) Neurologic impairment
 Anoxic brain injury vs status epilepticus vs
   sedation vs increased ICP due to enlarging chronic SDH or new process
   especially in setting of worsening anemia vs locked in syndrome
   - fu CT head today
   - f/u EEG
   - neurosurg: no need for acute intervention
   .
   #) Anemia
 Hct slowly trending down from 30s, initially was 9 but
   likely lab error. No evidence of active bleed.
   - CT head to eval IC bleeding
   - ? effects of cooling, dilution.
   - blood T+C, active until [**3-4**]
   - no need for transfusion yet.
   .
   #) Acute Kidney Injury
 Cr at baseline, likely prerenal. Urine output
   adequate
   - IVF prn with D5 bicarb given hyperchloremic metabolic acidosis.
   .
   #) Elevated LFTs
 likely due to transient hypoperfusion
   - will monitor.
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   20 Gauge - [**2106-3-1**] 04:40 PM
   18 Gauge - [**2106-3-1**] 04:42 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: H2 IV
   Code status: Full code
   Disposition: ICU
                         Active Medications [**Known lastname **],[**Known firstname **]
    1. IV access: Temporary central access (ICU) Order date: [**3-1**] @ 1628
   8. Lidocaine 1% 1 mL SC ONCE Duration: 1 Doses Order date: [**3-3**] @ 1223
   2. Acetaminophen 325-650 mg PO Q6H:PRN fever
   per OG tube  Order date: [**3-3**] @ 1605
   9. Piperacillin-Tazobactam Na 2.25 g IV Q8H  Order date: [**3-3**] @ [**2038**]
   3. Carbidopa-Levodopa (25-100) 1 TAB PO DAILY  Order date: [**3-2**] @ 1640
   10. Pramipexole *NF* 0.125 mg Oral TID  Order date: [**3-2**] @ 1640
   4. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Use only if patient is on mechanical ventilation.  Order date: [**3-1**] @
   1655
   11. Propofol 5-20 mcg/kg/min IV DRIP INFUSION  Order date: [**3-3**] @ 1045
   5. Famotidine 20 mg IV Q24H  Order date: [**3-1**] @ 1628
   12. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**3-1**] @ 1628
   6. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**3-2**] @ 0342
   13. Vancomycin 1000 mg IV Q48H
   ID Approval will be required for this order in 61 hours.  Order date:
   [**3-3**] @ [**2038**]
   7. Ipratropium Bromide MDI 2 PUFF IH QID PRN wheezing  Order date:
   [**3-1**] @ 1628

2106-03-04 11:45:00 Physician Attending Progress Note
Chief Complaint: Cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]M s/p cardiac arrest, intubated.
   24 Hour Events:
 BLOOD CULTURED - At [**2106-3-4**] 12:08 AM
 FEVER - 102.6
F - [**2106-3-4**] 06:00 AM--cultured and started on
   vanco/zosyn.
   RIJ CVL pulled back.
   History obtained from Family / [**Hospital 380**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-3-3**] 09:24 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-3-4**] 08:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-3-3**] 07:16 PM
   Other medications:
   Sinemet, mirapex, atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Edema
   Nutritional Support: NPO
   Heme / Lymph: Anemia
   Pain: Unable to answer
   Flowsheet Data as of  [**2106-3-4**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.1
C (98.7
   HR: 82 (69 - 85) bpm
   BP: 148/68(94) {98/47(65) - 160/72(99)} mmHg
   RR: 16 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 14 (6 - 17)mmHg
   Total In:
                                                                  1,300 mL
                                                                    318 mL
   PO:
   TF:
   IVF:
                                                                  1,155 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                    784 mL
                                                                    680 mL
   Urine:
                                                                    784 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    516 mL
                                                                   -362 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 537 (467 - 642) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/37/113/21/0
   Ve: 7.9 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   110 K/uL
   101 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   43 mg/dL
   112 mEq/L
   142 mEq/L
   27.2 %
   12.1 K/uL
        [image002.jpg]
                             [**2106-3-2**]  08:07 AM
                             [**2106-3-2**]  12:08 PM
                             [**2106-3-2**]  12:18 PM
                             [**2106-3-2**]  02:28 PM
                             [**2106-3-2**]  04:19 PM
                             [**2106-3-2**]  07:50 PM
                             [**2106-3-2**]  08:43 PM
                             [**2106-3-3**]  05:14 AM
                             [**2106-3-4**]  12:20 AM
                             [**2106-3-4**]  05:39 AM
   WBC
   12.8
   10.2
   12.1
   Hct
   29.9
   27.4
   27.2
   Plt
   114
   108
   110
   Cr
   1.5
   1.5
   1.6
   1.7
   1.7
   TCO2
   20
   21
   21
   23
   24
   Glucose
   93
   77
   85
   93
   101
   Other labs: PT / PTT / INR:13.6/29.3/1.2, CK / CKMB /
   Troponin-T:217/10/0.04, ALT / AST:79/127, Alk Phos / T Bili:59/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:361 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Imaging: EEG:  no epileptiform features.
   Head CT:  stable
   CXR:  LLL infiltrate
   Microbiology: Bld Cx NGTD
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   Most likely source is a LLL aspiration pneumonia.
   Check sputum, urine cultures.
   Vanco and Zosyn until further culture data available.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Remains on minimal vent settings and extubation is only limited by
   mental status.
   Turn off sedation now and assess mental status to determine if ready to
   extubate
   Maintain negative fluid balance.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**Month (only) 11**] be due brain injury from cardiac arrest
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   20 Gauge - [**2106-3-1**] 04:40 PM
   18 Gauge - [**2106-3-1**] 04:42 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient on am rounds with the fellow and ICU
   housestaff, 24 hour events reviewed.  Patient off propofol for 2 hours
   without responding to voice, noxious stimuli.  Then had episode of
   wide-complex tachycardia to 180s, SBP decreased from 180 to 107,
   lasting few minutes then broke on his own.  This episode occurred with
   suctioning.  Had recurrent run without stimulation, further BP decrease
   to 90
s, cardioverted, loaded with amiodarone, and received MgS04.
   Most consistent with SVT with aberrency.  Family updated on events with
   family meeting with his brother and [**Name2 (NI) 297**] (not HCP) and over the phone
   with [**Name (NI) 203**], HCP.  We presented our concern about his lack of
   responsiveness after being off versed/fentanyl for more than 12 hours
   and with propofol off.  Family felt neurology input would be helpful so
   they have been consulted. At this point they feel he should be a full
   code but understand poor prognosis given his age, underlying SDHs, and
   recent cardiorespiratory arrest.
   Time spent: 60 minutes for am rounds and at bedside managing
   arrhythmias; 30 minutes family meeting
   Total time: 90 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2106-3-4**] 15:27 ------
   I met with patient
s family including her brother, sister and [**Name2 (NI) 297**]
   [**Name (NI) 117**] to update them on course of events overnight.  Indicated that
   patient had progressively increasing tachypnea and anxiety overnight
   resulting in the need to intubate; likely tired in setting of copious
   secretions which she was unable to clear on her own.  Patient just back
   from her CT so let them know we would be reviewing the scans with
   oncology, radiation therapy as well as IP to collectively decide on the
   bets approach for palliation at this point.  Family aware that she may
   not be a candidate for systemic chemotherapy.  They raised concern
   about her comfort while on the ventilator and I reassured them that
   this is one of our top priorities in the ICU.
   Time spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2106-3-4**] 15:32 ------

2106-03-05 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  [**Age over 90 **]yo M with chronic subdural hematoma, Parkinsons,
   and [**Hospital1 69**] dependant at baseline presenting after cardiac arrest, now on
   hypothermia protocol.
   24 Hour Events:
 SPUTUM CULTURE - At [**2106-3-4**] 02:03 PM
 STOOL CULTURE - At [**2106-3-5**] 03:08 AM
   - Several runs of SVT with hypotension requiring cardioversion. Also
   started on amiodarone and given magnesium. No repeat episodes
   - Neuro: unofficial consult - "His prognosis is very poor. Although
   studies have not been repeated in the age of the cooling protocol, with
   these findings, he has no virtually chance of a meaningful recovery,
   and a very high chance of death within the next year, even with best
   supportive measures. If he survives, it will certainly be with severe
   disabilities. "
   - Family wants full code until they have furthur discussed amongst
   themselves.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-3-3**] 09:24 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-3-5**] 12:06 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-3-4**] 08:52 PM
   Fentanyl - [**2106-3-5**] 01:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-3-5**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 66 (66 - 95) bpm
   BP: 125/56(79) {117/56(78) - 186/87(122)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 9 (6 - 303)mmHg
   Total In:
                                                                  1,642 mL
                                                                    360 mL
   PO:
   TF:
   IVF:
                                                                  1,342 mL
                                                                    290 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    315 mL
   Urine:
                                                                  1,440 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    202 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 395 (339 - 537) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 9.2 L/min
   Physical Examination
   Gen: Intubated, unresponsive to pain or voice
   HEENT: Pupils unresponsive
   NECK: R IJ in place, clean and dry.
   CV: RRR, systolic murmur at left USB, split S2 on inspiration
   PULM: Clear anteriorly with good air movement bilaterally.
   ABD: +BS. Soft. No masses appreciated.
   EXT: Strong distal. Good capillary refill. No edema. No cyanosis.
   NEURO: down going toes, does not response.
   Labs / Radiology
   111 K/uL
   9.1 g/dL
   126 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.7 mEq/L
   33 mg/dL
   116 mEq/L
   141 mEq/L
   26.4 %
   11.1 K/uL
        [image002.jpg]
                             [**2106-3-2**]  12:18 PM
                             [**2106-3-2**]  02:28 PM
                             [**2106-3-2**]  04:19 PM
                             [**2106-3-2**]  07:50 PM
                             [**2106-3-2**]  08:43 PM
                             [**2106-3-3**]  05:14 AM
                             [**2106-3-4**]  12:20 AM
                             [**2106-3-4**]  05:39 AM
                             [**2106-3-4**]  07:56 PM
                             [**2106-3-5**]  04:13 AM
   WBC
   10.2
   12.1
   11.1
   Hct
   27.4
   27.2
   26.4
   Plt
   108
   110
   111
   Cr
   1.5
   1.6
   1.7
   1.7
   1.4
   1.5
   TCO2
   21
   21
   23
   24
   Glucose
   77
   85
   93
   101
   126
   126
   Other labs: PT / PTT / INR:13.6/29.3/1.2, CK / CKMB /
   Troponin-T:217/10/0.04, ALT / AST:79/127, Alk Phos / T Bili:59/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:361 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   [**Age over 90 **]yo M with chronic subdural hematoma, Parkinsons, and [**Hospital1 69**] dependant at
   baseline presenting after cardiac arrest, now on hypothermia protocol.
   .
   #) Arrest: Patient is s/p cardiopulmonary arrest likely due to trachea
   obstruction, other etiology unlikely. Tolerated cooling well, now
   rewarmed
   - ECHO without WMA
   - Lactate normalized
   - EKG changes resolved
   .
   #) Respiratory Failure: Patient presented with history concerning for
   aspiration. CXR now is concerning for a retrocardiac opacity as well as
   increase interstitial fluid. On pressure support [**4-20**], RSBI 40 without
   significant secretions.
   -Home inhalers
   -Follow CXR, WBC, temperature after warming to assess for aspiration
   pneumonitis
   - extubate after results of EEG and head CT and family discussion re:
   reintubation
   .
   #) Neurologic impairment
 Concerning for anoxic brain injury. Exam
   today with Right upgoing toe and some resistence with movement of
   extremities.
   - EEG and head CT without new pathology
   - neuro consult re brain function status to assist family with code
   status decision
   .
   #) Tachycardia
 had several runs of SVT today in setting of
   suctioning, the last with associated hypotension into SBP 70s. Required
   cardioversion. Also received Mg and Amiodarone load and drip.
   - has been NSR since
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   pneumoboots
   Stress ulcer: H2 IV
   Code status: Full code
   Disposition: ICU
                         Active Medications [**Known lastname **],[**Known firstname **]
    1. IV access: Temporary central access (ICU) Order date: [**3-1**] @ 1628
   8. Lidocaine 1% 1 mL SC ONCE Duration: 1 Doses Order date: [**3-3**] @ 1223
   2. Acetaminophen 325-650 mg PO Q6H:PRN fever
   per OG tube  Order date: [**3-3**] @ 1605
   9. Piperacillin-Tazobactam Na 2.25 g IV Q8H  Order date: [**3-3**] @ [**2038**]
   3. Carbidopa-Levodopa (25-100) 1 TAB PO DAILY  Order date: [**3-2**] @ 1640
   10. Pramipexole *NF* 0.125 mg Oral TID  Order date: [**3-2**] @ 1640
   4. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Use only if patient is on mechanical ventilation.  Order date: [**3-1**] @
   1655
   11. Propofol 5-20 mcg/kg/min IV DRIP INFUSION  Order date: [**3-3**] @ 1045
   5. Famotidine 20 mg IV Q24H  Order date: [**3-1**] @ 1628
   12. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**3-1**] @ 1628
   6. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**3-2**] @ 0342
   13. Vancomycin 1000 mg IV Q48H
   ID Approval will be required for this order in 61 hours.  Order date:
   [**3-3**] @ [**2038**]
   7. Ipratropium Bromide MDI 2 PUFF IH QID PRN wheezing  Order date:
   [**3-1**] @ 1628

2106-03-06 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**Age over 90 **]yo M with chronic subdural hematoma, Parkinsons, and
   [**Hospital1 69**] dependant at baseline presenting after cardiac arrest, now on
   hypothermia protocol.
   24 Hour Events:
   - Neuro attg - confirmed that chance of meaningful recovery very
   unlikely will stay in vegetative state
   - Family wants to discuss course of action tonight - will decide on
   extubation in AM
   - Amiodroine switched to PO- 200mg TID
   - cx shows yeast (likely contaminate)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-3-5**] 10:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-3-6**] 07:30 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-3-5**] 08:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-3-6**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.3
   HR: 72 (55 - 74) bpm
   BP: 162/76(108) {105/48(68) - 172/86(114)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 60 kg
   Height: 62 Inch
    CVP: 12 (2 - 273)mmHg
   Total In:
                                                                  1,339 mL
                                                                    303 mL
   PO:
   TF:
   IVF:
                                                                  1,114 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                    892 mL
                                                                    359 mL
   Urine:
                                                                    892 mL
                                                                    359 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    447 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 376 (353 - 469) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 7.6 L/min
   Physical Examination
   Gen: Intubated, unresponsive to pain or voice
   HEENT: Pupils unresponsive
   NECK: R IJ in place, clean and dry.
   CV: RRR, systolic murmur at left USB, split S2 on inspiration
   PULM: Clear anteriorly with good air movement bilaterally.
   ABD: +BS. Soft. No masses appreciated.
   EXT: Strong distal. Good capillary refill. No edema. No cyanosis.
   NEURO: down going toes, does not response.
   Labs / Radiology
   116 K/uL
   8.8 g/dL
   99 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.4 mEq/L
   28 mg/dL
   110 mEq/L
   141 mEq/L
   24.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2106-3-2**]  02:28 PM
                             [**2106-3-2**]  04:19 PM
                             [**2106-3-2**]  07:50 PM
                             [**2106-3-2**]  08:43 PM
                             [**2106-3-3**]  05:14 AM
                             [**2106-3-4**]  12:20 AM
                             [**2106-3-4**]  05:39 AM
                             [**2106-3-4**]  07:56 PM
                             [**2106-3-5**]  04:13 AM
                             [**2106-3-6**]  02:18 AM
   WBC
   10.2
   12.1
   11.1
   9.0
   Hct
   27.4
   27.2
   26.4
   24.8
   Plt
   108
   110
   111
   116
   Cr
   1.5
   1.6
   1.7
   1.7
   1.4
   1.5
   1.4
   TCO2
   21
   23
   24
   Glucose
   77
   85
   93
   101
   126
   126
   99
   Other labs: PT / PTT / INR:13.6/29.3/1.2, CK / CKMB /
   Troponin-T:217/10/0.04, ALT / AST:79/127, Alk Phos / T Bili:59/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:361 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.0 mg/dL
   Microbiology: [**2106-3-5**] 3:04 am STOOL
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2106-3-5**]):
         Feces negative for C.difficile toxin A & B by EIA.
   Assessment and Plan
 .H/O CARDIAC DYSRHYTHMIA OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O CARDIAC ARREST
 CARDIAC ARREST
   [**Age over 90 **]yo M with chronic subdural hematoma, Parkinsons, and [**Hospital1 69**] dependant at
   baseline presenting after cardiac arrest, now on hypothermia protocol.
   #) AMS
 likely  anoxic brain injury, s/p arrest. Exam today with Right
   upgoing toe and some resistence with movement of extremities. Pt not
   brain dead as breathing sponaneously. EEG and head CT without new
   pathology. No improvement today, but on propofol currently
   - Neuro believes virtually chance of a meaningful recovery, and a very
   high chance of death within the next year, even with best supportive
   measures
   - will f/u w/ Neuro recs
   #) SVT
 had several runs of SVT today in setting of suctioning, the
   last with associated hypotension into SBP 70s. Required cardioversion.
   Also received Mg and Amiodarone load and drip. has been NSR since
   - Will continue amiodrone po for now
   - replace mg prn
   #) Respiratory Failure: likely aspiration pneumonitis. w/ CXR now is
   concerning for a retrocardiac opacity as well as increase interstitial
   fluid. On pressure support [**4-20**], RSBI 40 without significant secretions.
   - d/c vanco now; cont zosyn
   - if extubate need to d/w family whether to trach vs. not replace.
   - f/u cultures
   ICU Care
   Nutrition:
    Glycemic Control:
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   pneumoboots
   Stress ulcer: H2 IV
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   DVT: P-boots
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-03-06 11:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   code status DNR, await family decision on extubation
   stable rhythm
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-3-5**] 10:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-3-6**] 07:45 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-3-5**] 08:17 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-3-6**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.7
   HR: 61 (55 - 74) bpm
   BP: 129/53(79) {105/48(68) - 172/86(114)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 60 kg
   Height: 62 Inch
   CVP: 13 (2 - 271)mmHg
   Total In:
                                                                  1,339 mL
                                                                    468 mL
   PO:
   TF:
   IVF:
                                                                  1,114 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                    892 mL
                                                                    507 mL
   Urine:
                                                                    892 mL
                                                                    507 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    447 mL
                                                                    -39 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 445 (353 - 469) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 8.6 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, unresponsive, no withdrawal to pain
   Labs / Radiology
   8.8 g/dL
   116 K/uL
   99 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.4 mEq/L
   28 mg/dL
   110 mEq/L
   141 mEq/L
   24.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2106-3-2**]  02:28 PM
                             [**2106-3-2**]  04:19 PM
                             [**2106-3-2**]  07:50 PM
                             [**2106-3-2**]  08:43 PM
                             [**2106-3-3**]  05:14 AM
                             [**2106-3-4**]  12:20 AM
                             [**2106-3-4**]  05:39 AM
                             [**2106-3-4**]  07:56 PM
                             [**2106-3-5**]  04:13 AM
                             [**2106-3-6**]  02:18 AM
   WBC
   10.2
   12.1
   11.1
   9.0
   Hct
   27.4
   27.2
   26.4
   24.8
   Plt
   108
   110
   111
   116
   Cr
   1.5
   1.6
   1.7
   1.7
   1.4
   1.5
   1.4
   TCO2
   21
   23
   24
   Glucose
   77
   85
   93
   101
   126
   126
   99
   Other labs: PT / PTT / INR:13.6/29.3/1.2, CK / CKMB /
   Troponin-T:217/10/0.04, ALT / AST:79/127, Alk Phos / T Bili:59/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:361 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 .H/O CARDIAC DYSRHYTHMIA OTHER - rhythm stable
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]) - continue support on vewnt
   until family decision made
 CARDIAC ARREST - on amio
   anoxic brain injury, coma - no hope for recovery, favor comfort care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2106-03-07 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**Age over 90 **]yo M with chronic subdural hematoma, Parkinsons
   presenting after cardiac arrest, now s/p  hypothermia protocol.
   24 Hour Events:
   - Family meeting: plan to extubate at 8pm on [**3-7**] with family at
   bedside. Family does not want to pursue trach, gtube if pt doesn't
   extubate successfully.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-3-5**] 10:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-3-7**] 12:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-3-6**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-3-7**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.9
C (96.6
   HR: 51 (47 - 72) bpm
   BP: 129/61(87) {120/53(79) - 162/76(108)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 65.2 kg (admission): 60 kg
   Height: 62 Inch
    CVP: 9 (2 - 14)mmHg
   Total In:
                                                                    946 mL
                                                                    248 mL
   PO:
   TF:
   IVF:
                                                                    676 mL
                                                                    188 mL
   Blood products:
   Total out:
                                                                    962 mL
                                                                    165 mL
   Urine:
                                                                    962 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -16 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 381 (381 - 504) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   No(t) Sedated, Tone: Decreased
   Labs / Radiology
   131 K/uL
   8.7 g/dL
   93 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.2 mEq/L
   27 mg/dL
   113 mEq/L
   142 mEq/L
   25.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2106-3-2**]  04:19 PM
                             [**2106-3-2**]  07:50 PM
                             [**2106-3-2**]  08:43 PM
                             [**2106-3-3**]  05:14 AM
                             [**2106-3-4**]  12:20 AM
                             [**2106-3-4**]  05:39 AM
                             [**2106-3-4**]  07:56 PM
                             [**2106-3-5**]  04:13 AM
                             [**2106-3-6**]  02:18 AM
                             [**2106-3-7**]  04:09 AM
   WBC
   10.2
   12.1
   11.1
   9.0
   7.3
   Hct
   27.4
   27.2
   26.4
   24.8
   25.2
   Plt
   108
   110
   111
   116
   131
   Cr
   1.5
   1.6
   1.7
   1.7
   1.4
   1.5
   1.4
   1.4
   TCO2
   23
   24
   Glucose
   77
   85
   93
   101
   126
   126
   99
   93
   Other labs: PT / PTT / INR:13.6/29.3/1.2, CK / CKMB /
   Troponin-T:217/10/0.04, ALT / AST:79/127, Alk Phos / T Bili:59/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:361 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 .H/O CARDIAC DYSRHYTHMIA OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O CARDIAC ARREST
 CARDIAC ARREST
   [**Age over 90 **]yo M with chronic subdural hematoma, Parkinsons, and [**Hospital1 69**] dependant at
   baseline presenting after cardiac arrest, now on hypothermia protocol.
   #) AMS
 likely  anoxic brain injury, s/p arrest. Exam today with Right
   upgoing toe and some resistence with movement of extremities. Pt not
   brain dead as breathing sponaneously. EEG and head CT without new
   pathology. No improvement today, but on propofol currently
   - Neuro believes virtually chance of a meaningful recovery, and a very
   high chance of death within the next year, even with best supportive
   measures
   - will f/u w/ Neuro recs
   #) SVT
 had several runs of SVT today in setting of suctioning, the
   last with associated hypotension into SBP 70s. Required cardioversion.
   Also received Mg and Amiodarone load and drip. has been NSR since
   - Will continue amiodrone po for now
   - replace mg prn
   #) Respiratory Failure: likely aspiration pneumonitis. w/ CXR now is
   concerning for a retrocardiac opacity as well as increase interstitial
   fluid. On pressure support [**4-20**], RSBI 40 without significant secretions.
   - continue zosyn
   - Per family meeting on [**3-6**], will extubate at 8pm on [**3-7**], no plans
   for trach or gtube if pt fails extubation.
   ICU Care
   Nutrition:
    Glycemic Control:
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   pneumoboots
   Stress ulcer: H2 IV
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-03-07 09:44:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   family meeting, will be extubated this evening
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-3-5**] 10:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-3-7**] 08:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-3-6**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-3-7**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.9
C (96.6
   HR: 68 (47 - 68) bpm
   BP: 137/72(93) {120/53(79) - 151/72(100)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 60 kg
   Height: 62 Inch
   CVP: 9 (2 - 13)mmHg
   Total In:
                                                                    946 mL
                                                                    391 mL
   PO:
   TF:
   IVF:
                                                                    676 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                    962 mL
                                                                    240 mL
   Urine:
                                                                    962 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -16 mL
                                                                    151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 405 (381 - 517) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Unresponsive, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   131 K/uL
   93 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.2 mEq/L
   27 mg/dL
   113 mEq/L
   142 mEq/L
   25.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2106-3-2**]  04:19 PM
                             [**2106-3-2**]  07:50 PM
                             [**2106-3-2**]  08:43 PM
                             [**2106-3-3**]  05:14 AM
                             [**2106-3-4**]  12:20 AM
                             [**2106-3-4**]  05:39 AM
                             [**2106-3-4**]  07:56 PM
                             [**2106-3-5**]  04:13 AM
                             [**2106-3-6**]  02:18 AM
                             [**2106-3-7**]  04:09 AM
   WBC
   10.2
   12.1
   11.1
   9.0
   7.3
   Hct
   27.4
   27.2
   26.4
   24.8
   25.2
   Plt
   108
   110
   111
   116
   131
   Cr
   1.5
   1.6
   1.7
   1.7
   1.4
   1.5
   1.4
   1.4
   TCO2
   23
   24
   Glucose
   77
   85
   93
   101
   126
   126
   99
   93
   Other labs: PT / PTT / INR:13.6/29.3/1.2, CK / CKMB /
   Troponin-T:217/10/0.04, ALT / AST:79/127, Alk Phos / T Bili:59/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:361 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 .H/O CARDIAC DYSRHYTHMIA OTHER - rhythm stable
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]) - continue support on vent,
   to be extubated this PM
 CARDIAC ARREST - on amio
   anoxic brain injury, coma - no hope for recovery, favor comfort care
   ICU Care
   Nutrition:  NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  35

2106-03-08 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2106-3-7**] 01:42 PM
 INVASIVE VENTILATION - STOP [**2106-3-7**] 09:01 PM
   - Extubated successfully, but requiring boluses of morphine for comfort
   (coughing, gagging, vomited once - started zofran)
   - Need to think about hydration/nutrition. No NG tube yet - wanted to
   see if he would survive the night and where he settles.
   - family does not want trach or peg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-3-5**] 10:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-3-8**] 12:40 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-3-7**] 08:16 PM
   Morphine Sulfate - [**2106-3-7**] 09:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-3-8**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.4
C (95.7
   HR: 54 (49 - 68) bpm
   BP: 134/55(84) {122/53(78) - 160/72(101)} mmHg
   RR: 9 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 65.2 kg (admission): 60 kg
   Height: 62 Inch
             Total In:
                                                                    685 mL
                                                                    176 mL
   PO:
             TF:
   IVF:
                                                                    565 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                      0 mL
   Urine:
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    125 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 365 (365 - 517) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 4.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   No(t) Sedated, Tone: Decreased
   Labs / Radiology
   155 K/uL
   9.3 g/dL
   100 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.0 mEq/L
   29 mg/dL
   111 mEq/L
   141 mEq/L
   27.1 %
   8.5 K/uL
        [image002.jpg]
                             [**2106-3-2**]  07:50 PM
                             [**2106-3-2**]  08:43 PM
                             [**2106-3-3**]  05:14 AM
                             [**2106-3-4**]  12:20 AM
                             [**2106-3-4**]  05:39 AM
                             [**2106-3-4**]  07:56 PM
                             [**2106-3-5**]  04:13 AM
                             [**2106-3-6**]  02:18 AM
                             [**2106-3-7**]  04:09 AM
                             [**2106-3-8**]  03:32 AM
   WBC
   10.2
   12.1
   11.1
   9.0
   7.3
   8.5
   Hct
   27.4
   27.2
   26.4
   24.8
   25.2
   27.1
   Plt
   108
   110
   111
   116
   131
   155
   Cr
   1.6
   1.7
   1.7
   1.4
   1.5
   1.4
   1.4
   1.3
   TCO2
   23
   24
   Glucose
   85
   93
   101
   126
   126
   99
   93
   100
   Other labs: PT / PTT / INR:13.6/29.3/1.2, CK / CKMB /
   Troponin-T:217/10/0.04, ALT / AST:79/127, Alk Phos / T Bili:59/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:361 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   [**Age over 90 **]yo M with chronic subdural hematoma, Parkinsons, and [**Hospital1 69**] dependant at
   baseline presenting after cardiac arrest, now on hypothermia protocol.
   #) AMS
 [**1-18**] anoxic brain injury, s/p arrest. Exam today with Right
   upgoing toe and some resistence with movement of extremities. Pt not
   brain dead as breathing sponaneously. EEG and head CT without new
   pathology. No improvement today, but on propofol currently Neuro
   believes virtually chance of a meaningful recovery, and a very high
   chance of death within the next year, even with best supportive
   measures.
   - family meeting w/ goals of care
   - family wants NG tube for meds and nutrition
   #) SVT
 No additional SVT since starting amiodarone gtt
   - Will continue amiodrone po for now, decrease dose given bradycardia
   overnight
   - restart PO amiodroionne now that NG in place
   #) Respiratory Failure: likely aspiration pneumonitis. w/ CXR now is
   concerning for a retrocardiac opacity as well as increase interstitial
   fluid. On pressure support [**4-20**], RSBI 40 without significant secretions.
   - continue zosyn day #[**6-23**]
   - extubated tolerating well
   ICU Care
   Nutrition:
    Glycemic Control:
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   pneumoboots
   Stress ulcer: H2 IV
   Code status: DNR DNI
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-3-1**] 04:38 PM
   Arterial Line - [**2106-3-2**] 12:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: